US07300944B2
3-{3-[6-Oxo-4-(2,4,5-trifluoro-phenyl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]-cyclobutyl}-benzaldehyde
To 3-{3-[6-oxo-4-(2,4,5-trifluoro-phenyl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]-cyclobutyl}-benzonitrile (0.16 g, 0.34 mmol) in CHCl3 (5 mL) at −78° C. (acetone/CO2 bath) was added a solution of DIBAL-H (1.8 mL, 1M in CH2Cl2). After 30 min, the reaction was quenched cold with MeOH (1 mL), followed by a saturated aqueous solution of sodium and potassium tartrates. The reaction mixture was allowed to warm to room temperature and stirred for one hr. The reaction mixture was extracted with CHCl3, and the combined organic layers were dried over MgSO4. The organic layer was filtered, and concentrated under reduced pressure. Purification of this material was accomplished by MPLC using a 10 g ISCO column, eluting with 4% MeOH/CHCl3. The product-containing fractions were collected and concentrated to give the title compound. LRMS m/z (APCI+) 426 (M+1)

reactant | 3-{3-[6-oxo-4-(2,4,5-trifluoro-phenyl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]-cyclobutyl}-benzonitrile | 0.34 mmol, 0.16 g | O=C1CC(C=2C(N1)=NNC2C2CC(C2)C=2C=C(C#N)C=CC2)C2=C(C=C(C(=C2)F)F)F | C23H17F3N4O
reactant | acetone CO2 | CC(=O)C.C(=O)=O
reactant | DIBAL-H | 1M, 1.8 mL | CC(C)C[AlH]CC(C)C
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-{3-[6-Oxo-4-(2,4,5-trifluoro-phenyl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-b]pyridin-3-yl]-cyclobutyl}-benzaldehyde | O=C1CC(C=2C(N1)=NNC2C2CC(C2)C=2C=C(C=O)C=CC2)C2=C(C=C(C(=C2)F)F)F | C23H18F3N3O2
